US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.29 g, 1.90 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 mL). After stirring for 20 min, n-butyl isocyanate (0.27 g, 2.77 mmol) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (70 mL). The CH2Cl2 solution was washed with 1N HCl (30 mL), H2O (30 mL), brine (30 mL) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified by chromatography (SiO2, CH2Cl2:EtOAc 1:1) to give N-{[2-(2,6-dioxo(3-piperidyl))1,3-dioxoisoindolin-4-yl]methyl}(butylamino)carboxamide (0.44 g, 61%) as a white solid: mp 172–174° C.; 1H NMR (DMSO-d6) δ 11.13 (s, 1H), 7.86–7.68 (m, 3H), 6.42 (t, J=5.9 Hz, 1H), 6.12 (t, J=5.4 Hz, 1H), 5.18–5.11 (dd, J=5.2 and 12.4 Hz, 1H), 4.63 (d, J=5.9 Hz, 1H), 3.03–2.83 (m, 3H), 2.64–2.51 (m, 2H), 2.08–2.04 (m, 1H), 1.37–1.22 (m, 4H), 0.86 (t, J=7.0 Hz, 3H); 13C NMR (DMSO-d6) δ 172.70, 169.77, 167.54, 167.00, 157.98, 141.14, 134.56, 133.33, 131.47, 126.94, 121.58, 48.80, 38.98, 38.70, 32.01, 30.90, 21.95, 19.46, 13.64; Anal. Calcd. For C19H22N4O5: C, 59.06; H, 5.74; N, 14.50. Found: C, 59.24; H, 5.53; N, 14.37.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 1.90 mmol, 0.29 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | n-butyl isocyanate | 2.77 mmol, 0.27 g | C(CCC)N=C=O | C5H9NO
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))1,3-dioxoisoindolin-4-yl]methyl}(butylamino)carboxamide | 0.44 g, 61% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(=O)NCCCC)=O)=O | C19H22N4O5
